US08445674B2
D) (S)-1-[5-((S)-4-Hydroxy-6-aza-spiro[2.5]oct-6-yl)-5-oxo-pentyl]-3-methyl-piperazin-2-one
In analogy to intermediate 12E, (S)-4-[5-((S)-4-hydroxy-6-aza-spiro[2.5]oct-6-yl)-5-oxo-pentyl]-2-methyl-3-oxo-piperazine-1-carboxylic acid benzyl ester was hydrogenated without aqueous HCl to give the titled compound in 83% yield as light yellow oil. MS: 324.23 (MH+).

reactant | (S)-4-[5-((S)-4-hydroxy-6-aza-spiro[2.5]oct-6-yl)-5-oxo-pentyl]-2-methyl-3-oxo-piperazine-1-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)N1[C@H](C(N(CC1)CCCCC(=O)N1C[C@H](C2(CC2)CC1)O)=O)C | C25H35N3O5
reactant | HCl | Cl | ClH
product | (S)-1-[5-((S)-4-Hydroxy-6-aza-spiro[2.5]oct-6-yl)-5-oxo-pentyl]-3-methyl-piperazin-2-one | 83% yield | O[C@H]1C2(CC2)CCN(C1)C(CCCCN1C([C@@H](NCC1)C)=O)=O | C17H29N3O3
